US06339045B1
Production of N-(2,2-dichlorovinyl)-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide (compound No. I-83)
1.0 g (0.0022 mol) of N-(1-hydroxy-2,2,2-trichloroethyl)-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide was dissolved in about 10 ml of acetic acid. The obtained solution was mixed with 0.29 g (0.0022×2.0 mol) of zinc dust and stirred at about 50° C. for about 5 hours. The reaction solution was distributed in ethyl acetate-water and washed with saturated sodium bicarbonate water and saturated brine. The organic phase of the solution was dried with anhydrous sodium sulfate, concentrated and purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | N-(1-hydroxy-2,2,2-trichloroethyl)-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | 0.0022 mol, 1.0 g | OC(C(Cl)(Cl)Cl)NC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C16H12Cl3F3N2O4
solvent | acetic acid | about 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate water | C(C)(=O)OCC.O
catalyst | zinc | 2.0 mol, 0.29 g | [Zn] | Zn
product | N-(2,2-dichlorovinyl)-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | ClC(=CNC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F)Cl | C16H11Cl2F3N2O3
